US05109013
N-Methyl-N-(1-methyl-3-pyrrolidinyl)-1H-benzimidazol-2-amine
A mixture of 2-chlorobenzimidazole (25 g, 0.165 mol) and 3-methylamino-1-methylpyrrolidine (72 g, 0.63 mol) was heated at 120° C. with an oil bath for 18 hr. After cooling, 500 ml of 2.5N NaOH solution was added and the mixture extracted twice with 100 ml portions of methylene chloride. The methylene chloride extracts were combined and washed successively with 2×100 ml portions of 2.5N NaOH solution and 3×100 ml portions of water. The methylene chloride solution was dried (Na2SO4) and concentrated to obtain 15 g of product (40% yield).

reactant | 2-chlorobenzimidazole | 0.165 mol, 25 g | ClC=1NC2=C(N1)C=CC=C2 | C7H5ClN2
reactant | 3-methylamino-1-methylpyrrolidine | 0.63 mol, 72 g | CNC1CN(CC1)C | C6H14N2
solvent | NaOH | 2.5N, 500 ml | [OH-].[Na+]
product | N-Methyl-N-(1-methyl-3-pyrrolidinyl)-1H-benzimidazol-2-amine | 15 g, 40% yield | CN(C1=NC2=C(N1)C=CC=C2)C2CN(CC2)C | C13H18N4
